US03975524
1-(1-Oxido-thiomorpholino)-3-piperazino-7-chloro-isoquinoline was prepared analogous to Example 12 from 1-thiomorpholino-3-piperazino-7-chloro-isoquinoline by oxidation with hydrogen peroxide in glacial acetic acid. M.p. 209°-211°C; yield: 13% of theory.

reactant | 1-thiomorpholino-3-piperazino-7-chloro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=CC=C(C=C12)Cl)N1CCNCC1 | C17H21ClN4S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(1-Oxido-thiomorpholino)-3-piperazino-7-chloro-isoquinoline | yield: 13% | O=S1CCN(CC1)C1=NC(=CC2=CC=C(C=C12)Cl)N1CCNCC1 | C17H21ClN4OS
